US07365069B2
Synthesis of 4-[5-cyano-2-(4-ethoxyphenyl)-4-(methylthio)-6-oxopyrimidin-1(6H)-yl]benzenesulfonyl chloride
A solution of 5-cyano-2-(4-ethoxyphenyl)-1-phenyl-4-(methylthio)-6-oxo-1,6-dihydropyrimidine (1 g, 2.7 mmol) in chlorosulfonic acid (6.14 g, 53 mmol) and chloroform (30 ml) was refluxed 1 hr and then poured on to ice. The chloroform layer was collected and dried over Na2SO4 and concentrated under vacuo to yield title compound (0.8 g, yield 62.9%). 1H-NMR (DMSO):δ 1.21-1.24 (t, 3H), 2.6 (s, 3H), 3.94-3.99 (q, 2H), 6.7-6.72 (d, 1H), 7.03-7.05 (q, 1H), 7.33-7.39 (m, 5H), 8.04-8.05 (1H). MS m/z:463.7 (M+).

reactant | 5-cyano-2-(4-ethoxyphenyl)-1-phenyl-4-(methylthio)-6-oxo-1,6-dihydropyrimidine | 2.7 mmol, 1 g | C(#N)C1=C(N=C(N(C1=O)C1=CC=CC=C1)C1=CC=C(C=C1)OCC)SC | C20H17N3O2S
reactant | chlorosulfonic acid | 53 mmol, 6.14 g | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[5-cyano-2-(4-ethoxyphenyl)-4-(methylthio)-6-oxopyrimidin-1(6H)-yl]benzenesulfonyl chloride | 0.8 g, yield 62.9% | C(#N)C1=C(N=C(N(C1=O)C1=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=C(C=C1)OCC)SC | C20H16ClN3O4S2
